US04018802
Step B. Preparation of ethyl 8-(2-chloroethylthio)-12-acetoxyheptadecanoate
Thionyl chloride (13.1 g., 0.11 mole) is added dropwise with stirring to a solution of ethyl 8-(2-hydroxyethylthio)-12-acetoxyheptadecanoate (43.2 g., 0.10 mole) in benzene (150 ml.). The solution is heated at reflux for 2 hours. Then, the solvent and excess thionyl chloride are removed by evaporation in vacuo to leave the title compound as an orange yellow residual oil.

reactant | Thionyl chloride | 0.11 mole, 13.1 g | S(=O)(Cl)Cl | Cl2OS
reactant | ethyl 8-(2-hydroxyethylthio)-12-acetoxyheptadecanoate | 0.10 mole, 43.2 g | OCCSC(CCCCCCC(=O)OCC)CCCC(CCCCC)OC(C)=O | C23H44O5S
solvent | benzene | 150 ml | C1=CC=CC=C1 | C6H6
product | ethyl 8-(2-chloroethylthio)-12-acetoxyheptadecanoate | ClCCSC(CCCCCCC(=O)OCC)CCCC(CCCCC)OC(C)=O | C23H43ClO4S
